US07863302B2
[5-(4-Hydroxy-2-methyl-phenyl)-1H-indol-3-yl]-acetic acid methyl ester
A mixture of 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (287 mg, 1.22 mmol), (5-bromo-1H-indol-3-yl)-acetic acid methyl ester (273 mg, 1.02 mmol), tetrakis(triphenylphosphine)palladium(0) (57 mg, 0.046 mmol), DMF (2.7 mL), ethanol (1.34 mL) and 2M aqueous potassium carbonate (1.34 mL) is heated to 100° C. for 16 hours. The reaction is cooled to room temperature and diluted with water and acidified with 1 N HCl. The resulting solution is extracted with ethyl acetate. The combined organic layers are dried over anhydrous magnesium sulfate and concentrated. The residue is dissolved in methanol (6 mL) and trimethylsilyldiazomethane (2.0 M solution in hexanes, approximately 4 mL) is added over approximately two minutes at room temperature. The yellow mixture is concentrated and the residue is purified via radial chromatography eluting with a gradient of 20 to 50% ethyl acetate/heptane and crystallized from CH2Cl2/heptane to give the title compound (180 mg, 60%). ES/MS m/e 296.1 (M+1).

reactant | 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 1.22 mmol, 287 mg | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | (5-bromo-1H-indol-3-yl)-acetic acid methyl ester | 1.02 mmol, 273 mg | COC(CC1=CNC2=CC=C(C=C12)Br)=O | C11H10BrNO2
reactant | potassium carbonate | 2M, 1.34 mL | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.046 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.34 mL | C(C)O | C2H6O
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
product | [5-(4-Hydroxy-2-methyl-phenyl)-1H-indol-3-yl]-acetic acid methyl ester | 180 mg, 60% | COC(CC1=CNC2=CC=C(C=C12)C1=C(C=C(C=C1)O)C)=O | C18H17NO3
